datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.COC1=CC=C([C:11]([CH2:10][S:20]C(F)(F)F)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.CC[O:61]/[C:11](=[C:10](\C(C)C)[C:72](=[O:73])[O:83]CC)[O-:12]>>CC(C)(C1=CC=CC=C1)[O-:21].CC[O:61][C:11]([C:10](C(C)C)([S:20]C(F)(F)F)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:72][C:61](=[O:62])[CH-:10][C:81](=[O:82])[O:92]1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC1(C)[O:72][C:61](=[O:62])[CH:10]([CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:81](=[O:82])[O:92]1 10=20;20,21=21,22;22,23=23"
"ClC[N+]12CC[N+:21]([F:20])(CC1)CC2.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>ClC[N+]12CC[N:21](CC1)CC2.[CH:10]([C:11]#[N:12])([F:20])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1 10,11=10,20;12=11,12;20,21=21"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1>>C[C+:13]1[CH:12]=[CH:11][CH:10]([C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12"
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[N+:12](C3=CC=CC=C3)[CH:63]=[CH:64]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[O-:12])C=C1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>Cl[C:20]1([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][C:63]3=[C:64]([CH:65]=[CH:66][CH:67]=[CH:68]3)[CH:73]=[CH:72]2)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33].[CH2:10]=[N+:11]([O-:12])[O-:62]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].FC(F)(F)[S:20][CH2:10][N+:11](=[O:12])[O-:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C1=CC=C([C:22](=[CH:21][CH:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11]1=[CH:10][CH:61]=[C:62](C)[N:12]1C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[C:11](C)=[N+:12](C)[C:62](C)=[CH:61]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1>>C1CC[N:21]([CH:20]([CH:10]2CC[C:63]3=[C:62]([C:11]2=[N+:12]2CCCC2)[CH:73]=[CH:74][CH:65]=[CH:64]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1 10,11=10,20;12=11,12;20,21=21"
"C[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([C:10]1([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]1=[O:73])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
